US08877975B2
(b) N-((1-(3,4-dichlorophenyl)cyclohexyl)methyl)-N-methylethanamine
The title compound was synthesized from 1-(3,4-dichlorophenyl)-N-ethyl-N-methylcyclohexanecarboxamide (130 mg, 0.414 mmol) using General Procedure E followed by HCl salt formation. The crude HCl salt was recrystallized from CH3CN (3 mL) to give pure N-((1-(3,4-dichlorophenyl)cyclohexyl)methyl)-N-methylethanamine as white crystals. HPLC Rt=9.00 min; 1H NMR (400 mHz, MeOH-d4) 7.65 (d, J=2.2 Hz, 1H), 7.56 (d, J=8.43 Hz, 1H), 7.42 (dd, J=2.2, 8.43 Hz, 1H), 3.43-3.40 (m, 1H), 2.96-2.94 (m, 2H), 2.48 (s, 3H), 2.24 (m, 2H), 1.66-1.53 (m, 5H), 1.41-1.31 (m, 3H), 1.14 (t, 3H); LC-MS 10.07 min, (M+1)+ 300@10.3 min.

reactant | 1-(3,4-dichlorophenyl)-N-ethyl-N-methylcyclohexanecarboxamide | 0.414 mmol, 130 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(=O)N(C)CC | C16H21Cl2NO
reactant | HCl | Cl | ClH
product | N-((1-(3,4-dichlorophenyl)cyclohexyl)methyl)-N-methylethanamine | ClC=1C=C(C=CC1Cl)C1(CCCCC1)CN(CC)C | C16H23Cl2N
